US07253198B2
A mixture of 4-chloro-3,5-dinitro-benzoic acid methyl ester (D25a) (2.6 g, 10 mmol, 1 equiv) and SnCl2 (18.95 g, 100 mmol, 10 equiv) in MeOH (80 ml) was refluxed for 1 h, cooled to room temperature and concentrated in vacuo. The residue was partitioned between AcOEt and 2N aqueous NaOH solution. The organic phase was dried over MgSO4 and concentrated in vacuo. The residue was triturated with 1:1 Et2O/iso-hexane to give 3,5-diamino-4-chloro-benzoic acid methyl ester (D27a) (1.56 g, 78%) as a light orange solid.

reactant | 4-chloro-3,5-dinitro-benzoic acid methyl ester | 10 mmol, 2.6 g, 1 equiv | COC(C1=CC(=C(C(=C1)[N+](=O)[O-])Cl)[N+](=O)[O-])=O | C8H5ClN2O6
reactant | SnCl2 | 100 mmol, 18.95 g, 10 equiv | Cl[Sn]Cl
solvent | MeOH | 80 ml | CO | CH4O
product | 3,5-diamino-4-chloro-benzoic acid methyl ester | 1.56 g, 78% | COC(C1=CC(=C(C(=C1)N)Cl)N)=O | C8H9ClN2O2
